* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
* statistics {
*   mismatch {
*   }
* }
.subckt  sky130_fd_pr__cap_vpp_06p8x06p1_l1m1m2m3_shieldpom4 c0 c1 b m4
+ 
.param  mult = 1.0
+ 
+ ctot_a = {33.819e-15*sky130_fd_pr__cap_vpp_06p8x06p1_l1m1m2_noshield__cor+0.0283/sqrt(6.8*6.1*mult*2)*33.819e-15*sky130_fd_pr__cap_vpp_06p8x06p1_l1m1m2_noshield__cor*sky130_fd_pr__cap_vpp_06p8x06p1_l1m1m2_noshield__slope}
+ cm4_c0 = {2.75e-15*c0m4m3_vpp}
+ cm4_c1 = {1.53e-15*c1m4m3_vpp}
+ cpl2s = {(6.51e-15-1.05e-15)*cpl2s_vpp}
+ rat_m3 = 0.12
+ rat_m2 = 0.37
+ rat_m1 = 0.37
+ rat_li = 0.12
+ rat_li2p = 0.02
+ cap_m3 = {rat_m3*ctot_a}
+ cap_m2 = {rat_m2*ctot_a}
+ cap_m1 = {rat_m1*ctot_a}
+ cap_li = {rat_li*ctot_a}
+ cap_li2p = {rat_li2p*ctot_a}
+ ll1 = 2.73
+ lm1 = 2.42
+ lm2 = 2.77
+ lm3 = 2.25
+ wl1 = 0.170
+ wm1 = 0.140
+ wm2 = 0.140
+ wm3 = 0.300
+ nfl1 = 34.0
+ nfm1 = 42.0
+ nfm2 = 38.0
+ nfm3 = 22.0
+ nvia2_c0 = 48.0
+ nvia2_c1 = 23.0
+ nvia_c0 = 60.0
+ nvia_c1 = 32.0
+ ncon_c0 = 64.0
+ ncon_c1 = 13.0
+ nlicon = 68.0
ccmvpp6p8x6p1_polym4shield m4 b0  c = {cm4_c0}
cm4_1 m4 b1 c = {cm4_c1}
rsm3 b0 b2 r = {rm3*lm3/wm3*(1/3)*(1/nfm3)}
cm3 b2 b1 c = {cap_m3}
rvia2_0 b0 c0 r = {rcvia2/nvia2_c0}
rvia2_1 b1 c1 r = {rcvia2/nvia2_c1}
rsm2 c0 c2 r = {rm2*lm2/wm2*(1/3)*(1/nfm2)}
cm2 c2 c1 c = {cap_m2}
rvia_0 c0 d0 r = {rcvia/nvia_c0}
rvia_1 c1 d1 r = {rcvia/nvia_c1}
rsm1 d0 d2 r = {rm1*lm1/wm1*(1/3)*(1/nfm1)}
cm1 d2 d1 c = {cap_m1}
rcon1 d0 e0 r = {rcl1/ncon_c0}
rcon2 d1 e1 r = {rcl1/ncon_c1}
rli1 e0 e2 r = {rl1*ll1/wl1*(1/3)*(1/nfl1)}
cli e2 e1 c = {cap_li}
rlicon e0 f0 r = {rcp1/nlicon}
rpoly f0 f2 r = {rp1}
cl12p e1 f2 c = {cap_li2p}
cpl2b f0 b c = {cpl2s}
.ends sky130_fd_pr__cap_vpp_06p8x06p1_l1m1m2m3_shieldpom4
